US06469006B1
Preparation of 3-Hydroxylmethyl-benzoylpiperazine XLIX
To a stirred solution of 3-ethoxycarbonyl-benzoylpiperazine XLIX (200 mg, 0.76 mmol) in THF (5 ml), was added lithium chloride (36 mg, 0.84 mmol), NaBH4 (32 mg, 0.84 mmol) and EtOH (5 ml) sequentially. After stirring for 8 hours at room temperature, a saturated NaHCO3 solution was added and the aqueous phase was extracted with ethyl acetate (3×20 ml). The organic layers were combined, dried over MgSO4 and concentrated to give a crude mixture, which was used for the further reaction without purification.

reactant | 3-ethoxycarbonyl-benzoylpiperazine | C(C)OC(=O)C=1C=C(C(=O)N2CCNCC2)C=CC1 | C14H18N2O3
reactant | lithium chloride | 0.84 mmol, 36 mg | [Cl-].[Li+]
reactant | NaBH4 | 0.84 mmol, 32 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 3-Hydroxylmethyl-benzoylpiperazine | OCC=1C=C(C(=O)N2CCNCC2)C=CC1 | C12H16N2O2
